US07683185B2
(5Acetylamino-1-carbamoyl-pentyl)-carbamic acid tert-butyl ester.
To a solution of triethylamine (0.8 mL, 5.8 mmol) in DMF (35 mL) was added N-acetyl-L-lysine (1.0 g, 5.3 mmol). After 15 minutes, di-tert-butyl dicarbonate (1.27 g, 5.8 mmol) was added to the slurry. After a further sixteen hours, the clear solution was concentrated under reduced pressure to give an oil. Water was added together with enough saturated aqueous sodium hydrogen carbonate to dissolve the oil. The basic solution was washed three times with diethyl ether to remove any unreacted di-tert-butyl dicarbonate. The aqueous solution was then cooled to 0° C. and acidified with concentrated hydrochloric acid (10 M). The oily mixture was extracted three times with ethyl acetate. The residual organic layer was then washed with brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give the pure title compound as a white powder.

reactant | triethylamine | 5.8 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | N-acetyl-L-lysine | 5.3 mmol, 1.0 g | C(C)(=O)N[C@@H](CCCCN)C(=O)O | C8H16N2O3
reactant | di-tert-butyl dicarbonate | 5.8 mmol, 1.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | (5Acetylamino-1-carbamoyl-pentyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CCCCNC(C)=O)C(N)=O)=O | C13H25N3O4
